US04670421
Isopropyl 4-[14-(trimethylsilyl)tetradecylamino]benzoate
A solution of 4.9 g of 4-[14-(trimethylsilyl)tetradecylamino]benzoic acid and 3.4 ml. of boron trifluoride etherate in 20 ml. of isopropyl alcohol is stirred at reflux for 44 hours, allowed to cool, and poured into 120 ml. of ice cold 5% aqueous sodium carbonate solution. The white solid is collecetd by filtration and recrystallized from benzene-ethanol to yield the product as a white solid.

reactant | 4-[14-(trimethylsilyl)tetradecylamino]benzoic acid | 4.9 g | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)(C)C | C24H43NO2Si
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | Isopropyl 4-[14-(trimethylsilyl)tetradecylamino]benzoate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)OC(C)C)C=C1)(C)C | C27H49NO2Si
